US08030500B2
4-Fluoro-1-(4-fluoro-3-methoxyphenyl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 45 in 20% yield starting from 1-(3-bromophenyl)-4-fluoro-1-(4-fluoro-3-methoxyphenyl)-1H-isoindol-3-amine (210 mg, 0.49 mmol) and pyrimidine-5-boronic acid (72.7 mg, 0.59 mmol).

reactant | 1-(3-bromophenyl)-4-fluoro-1-(4-fluoro-3-methoxyphenyl)-1H-isoindol-3-amine | 0.49 mmol, 210 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=C(C=C1)F)OC | C21H15BrF2N2O
reactant | pyrimidine-5-boronic acid | 0.59 mmol, 72.7 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 4-Fluoro-1-(4-fluoro-3-methoxyphenyl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine | 20% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=CC=C1)C=1C=NC=NC1)C1=CC(=C(C=C1)F)OC)N | C25H18F2N4O
